US09062015B2
FS1027 Acetic acid 4-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamino]butyl ester
The preparation is carried out analogously to FS401 starting from 94 mg (0.46 mmol) of 6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamine and 45 μl of bromobutyl acetate using 2 equiv. of potassium carbonate.

reactant | 6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamine | 0.46 mmol, 94 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CC(CCC1)N)C | C24H33N3
reactant | bromobutyl acetate | 45 μl, 2 equiv. | C(C)(=O)OCCCCBr | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Acetic acid 4-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamino]butyl ester | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CC(CCC1)NCCCCOC(C)=O)C | C30H43N3O2
